US05013814
5.0 g (15.9 mmol) of bis(1-naphthylmethyl) sulfide and 5.93 g (17.5 mmol) of triethyloxonium hexafluoroantimonate in 30 ml of methylene chloride are reacted according to Example 1(a) to give 9.07 g (98% of theory) of bis(1-naphthylmethyl)ethylsulfonium hexafluoroantimonate in the form of white crystals of melting point 101°-105° C.

reactant | bis(1-naphthylmethyl) sulfide | 15.9 mmol, 5.0 g | C1(=CC=CC2=CC=CC=C12)CSCC1=CC=CC2=CC=CC=C12 | C22H18S
reactant | triethyloxonium hexafluoroantimonate | 17.5 mmol, 5.93 g | F[Sb-](F)(F)(F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | bis(1-naphthylmethyl)ethylsulfonium hexafluoroantimonate | 9.07 g, 98% | F[Sb-](F)(F)(F)(F)F.C1(=CC=CC2=CC=CC=C12)C[S+](CC)CC1=CC=CC2=CC=CC=C12 | InChI=1S/C24H23S.6FH.Sb/c1-2-25(17-21-13-7-11-19-9-3-5-15-23(19)21)18-22-14-8-12-20-10-4-6-16-24(20)22;;;;;;;/h3-16H,2,17-18H2,1H3;6*1H;/q+1;;;;;;;+5/p-6
